US07342118B2
2-(2-Hydroxy-3,3-dimethyl-butyrylamino)-pentanoic acid [1-(1-ethyl-propyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1-ethyl-propyl)-1H-imidazol-4-yl]-amide was coupled with (S)-2-hydroxy-3,3-dimethyl-butyric acid to provide the title compound: C13 NMR (100 MHz, CDCl3) 10.8, 13.9, 19.0, 26.3, 28.8, 35.3, 35.6, 52.7, 62.9, 79.8, 104.8, 132.7, 137.9, 169.2, 172.9; MS 367.1 m/z (M+1).

reactant | 2-Amino-pentanoic acid [1-(1-ethyl-propyl)-1H-imidazol-4-yl]-amide | C(C)C(CC)N1C=NC(=C1)NC(C(CCC)N)=O | C13H24N4O
reactant | (S)-2-hydroxy-3,3-dimethyl-butyric acid | O[C@H](C(=O)O)C(C)(C)C | C6H12O3
product | 2-(2-Hydroxy-3,3-dimethyl-butyrylamino)-pentanoic acid [1-(1-ethyl-propyl)-1H-imidazol-4-yl]-amide | C(C)C(CC)N1C=NC(=C1)NC(C(CCC)NC(C(C(C)(C)C)O)=O)=O | C19H34N4O3
